US08877744B2
Deprotection of [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(6-chloro-benzothiazol-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine (26 mg, 35 μmol) with trifluoroacetic acid (27 μl, 349 μmol), treatment with hydrochloric acid and followed by trituration with diethyl ether yielded the (R)-5-[5-(6-Chloro-benzothiazol-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine hydrochloride (9 mg, 53% yield) as a white solid. MS (ISP): m/z=454.1 [M+H]+ and 456.1 [M+2+H]+.

reactant | [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(6-chloro-benzothiazol-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine | 35 μmol, 26 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)C=1SC2=C(N1)C=CC(=C2)Cl)F)(F)F)(C)C | C42H37ClF3N3O3S
reactant | trifluoroacetic acid | 349 μmol, 27 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-5-[5-(6-Chloro-benzothiazol-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine hydrochloride | 9 mg, 53% yield | Cl.ClC1=CC2=C(N=C(S2)C=2C=CC(=C(C2)[C@]2(N=C(COC(C2(F)F)(C)C)N)C)F)C=C1 | InChI=1S/C21H19ClF3N3OS.ClH/c1-19(2)21(24,25)20(3,28-17(26)10-29-19)13-8-11(4-6-14(13)23)18-27-15-7-5-12(22)9-16(15)30-18;/h4-9H,10H2,1-3H3,(H2,26,28);1H/t20-;/m1./s1
